US08664241B2
A mixture of 3-nitropyridin-4-amine (LVII) (10 g, 71.94 mmol) and acetic acid (120 mL) was added to a sealed tube followed by addition of NaOAc (29.50 g, 93.52 mmol) and dropwise addition of bromine (4.7 ml 359.7 mmol) under stirring. The sealed tube was heated at 100° C. for 28 h until TLC showed consumption of starting material. The reaction mixture was concentrated to obtain a solid which was dissolved in water, basified with NaHCO3 and extracted with EtOAc. The combined organic extracts were dried and concentrated to produce 3-bromo-5-nitropyridin-4-amine (LVIII) as a yellow solid (12 g, 55 mmol, 77% yield). 1H NMR (DMSO-d6) δ ppm 9.19 (s, 1H), 8.58 (s, 1H); ESIMS found for C5H4BrN3O2 m/z 217, 219 (M+, M+2).

reactant | 3-nitropyridin-4-amine | 71.94 mmol, 10 g | [N+](=O)([O-])C=1C=NC=CC1N | C5H5N3O2
reactant | NaOAc | 93.52 mmol, 29.50 g | CC(=O)[O-].[Na+]
reactant | bromine | 359.7 mmol, 4.7 ml | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
product | 3-bromo-5-nitropyridin-4-amine | 55 mmol, 12 g, 77% yield | BrC=1C=NC=C(C1N)[N+](=O)[O-] | C5H4BrN3O2
